US04683222
N-Glucopyranosyl-N-octadecyl-stearamide
Preparation in analogy to Example 6 from N-octadecylglucopyranosylamine and stearoyl chloride.

reactant | N-octadecylglucopyranosylamine | C(CCCCCCCCCCCCCCCCC)NC1[C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO | C24H49NO5
reactant | stearoyl chloride | C(CCCCCCCCCCCCCCCCC)(=O)Cl | C18H35ClO
product | N-Glucopyranosyl-N-octadecyl-stearamide | C1([C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)N(C(CCCCCCCCCCCCCCCCC)=O)CCCCCCCCCCCCCCCCCC | C42H83NO6
